US09376422B2
3-[Ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzoic acid
To a stirred solution of methyl 3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzoate (700 mg, 1.95 mmol) in methanol (15 mL) was added aq. NaOH (5M, 590 ul, 2.93 mmol). The reaction mixture was stirred at 50° C. for 3 hours. After cooling to 23° C., HCl (2 M) was added to the mixture. The mixture was acidified to pH=5 and was concentrated in vacuo to give the titled compound as crude products (1.26 g).

reactant | methyl 3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzoate | 1.95 mmol, 700 mg | C(C)N(C=1C(=C(C(=O)OC)C=C(C1)C(F)(F)F)C)C1CCN(CC1)C | C18H25F3N2O2
reactant | NaOH | 2.93 mmol, 5M, 590 ul | [OH-].[Na+]
reactant | HCl | 2 M | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | 3-[Ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzoic acid | C(C)N(C=1C(=C(C(=O)O)C=C(C1)C(F)(F)F)C)C1CCN(CC1)C | C17H23F3N2O2
